US08119633B2
tert-Butyl 2-(3,4-dichlorophenylsulfonamido)-4,5,6,7-tetrahydrobenzo[b]-thiophene-3-carboxylate
tert-Butyl 2-amino-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylate (12.26 g, 48.4 mmol) was dissolved in DCM (150 ml), and pyridine (6.0 ml, 74 mmol) was added thereto. A solution of 3,4-dichlorobenzenesulfonyl chloride (8.4 ml, 54 mmol) was then added, and the mixture was heated for 17 h under reflux and then cooled to room temperature. Water was added (100 ml), and stirring was carried out overnight at room temperature. The phases were then separated (pH organic phase≈2), washed with saturated NaHCO3 solution, dried (sodium sulfate) and concentrated in vacuo.

reactant | tert-Butyl 2-amino-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylate | 48.4 mmol, 12.26 g | NC1=C(C2=C(S1)CCCC2)C(=O)OC(C)(C)C | C13H19NO2S
reactant | pyridine | 74 mmol, 6.0 ml | N1=CC=CC=C1 | C5H5N
reactant | 3,4-dichlorobenzenesulfonyl chloride | 54 mmol, 8.4 ml | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | Water | O | H2O
solvent | DCM | 150 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl 2-(3,4-dichlorophenylsulfonamido)-4,5,6,7-tetrahydrobenzo[b]-thiophene-3-carboxylate | ClC=1C=C(C=CC1Cl)S(=O)(=O)NC1=C(C2=C(S1)CCCC2)C(=O)OC(C)(C)C | C19H21Cl2NO4S2
